US06498170B2
1-(3,4-Dimethoxy-benzenesulfonyl)-piperidin-4-one
The title compound was prepared from 3,4-dimethoxybezenesulfonyl chloride and 4-piperidone monohydrate hydrochloride according to the procedure of Intemediate 22 as a white solid; 1H NMR (CDCl3) δ 2.55 (t, J=6.15 Hz, 4H), 3.40 (t, J=6.15 Hz, 4H), 3.93 (s, 3H), 3.95 (s, 3H), 6.97 (d, J=8.46 Hz, 1H), 7.23 (d, J=2.04 Hz, 1H), 7.41 (dd, J=2.10 Hz, 8.49 Hz, 1H); MS (ES) m/z 299.9 (MH+); HRMS for C13H17NO5S: 299.0834; Anal. Calcd. for C13H17NO5S: C, 52.16; H, 5.72; N, 4.68. Found: C, 52.13; H, 5.80; N, 4.59.

reactant | 3,4-dimethoxybezenesulfonyl chloride | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | 4-piperidone monohydrate hydrochloride | Cl.O.N1CCC(CC1)=O
product | 1-(3,4-Dimethoxy-benzenesulfonyl)-piperidin-4-one | COC=1C=C(C=CC1OC)S(=O)(=O)N1CCC(CC1)=O | C13H17NO5S
